US08754100B2
Synthesis of {2-chloro-4-[cyclopropylmethyl(2,2,2-trifluoroethyl)amino]phenyl}methanol
Borane-THF complex (1.0M solution in THF, 13.7 ml) was added under ice-cooling to a solution of methyl 2-chloro-4-[cyclopropylmethyl(2,2,2-trifluoroacetyl)amino]benzoate (500 mg) in dichloromethane (10 ml). The reaction mixture was then refluxed overnight. After cooling to room temperature, the mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with brine and dried over anhydrous sodium sulfate.

reactant | Borane THF | 1.0M, 13.7 ml | B.C1CCOC1
reactant | methyl 2-chloro-4-[cyclopropylmethyl(2,2,2-trifluoroacetyl)amino]benzoate | 500 mg | ClC1=C(C(=O)OC)C=CC(=C1)N(C(C(F)(F)F)=O)CC1CC1 | C14H13ClF3NO3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | {2-chloro-4-[cyclopropylmethyl(2,2,2-trifluoroethyl)amino]phenyl}methanol | ClC1=C(C=CC(=C1)N(CC(F)(F)F)CC1CC1)CO | C13H15ClF3NO
